**********************************************************************
* Test for SON Bug 903 for .AC analysis
*
* Notes:
*   1) Both .PRINT AC FORMAT=PROBE lines are needed in order to
*      test all of the branches in the code that makes the #N lines
*      in a .CSD file for .AC analyses.  If they are changed then
*      something like gdb should be used to verify that all of 
*      those branches are still taken.  See SON Bug 903 for 
*      more details.
*
*   2) This test assumes that Xyce will only put 128 characters on
*      each line in the #N section of the .CSD file header. A node
*      name (say node1) will be effectively padded with 6 characters
*      because it would become 'V(node1') followed by a space on the
*      #N line.  So, this test uses node names that are 122 and 121
*      characters long, since they "pad out" to 128 and 127 characters
*      on the #N line.
*      
**********************************************************************

.AC DEC 4 1e2 1e6

* this print line is tested against GSfile1
.PRINT AC FORMAT=PROBE FILE=bug_903_ac.cir.pline1.csd
+ V(name_is_122_characters_its_really_really_really_really_really_really_really_really_really_really_really_really_really_long)
+ V(name_is_121_characters_its_less_really_really_really_really_really_really_really_really_really_really_really_really_longg)
+ V(1) V(1a) V(2) V(3) V(4) V(5) V(6) V(7) V(8) V(9) V(11) V(11a) V(12) V(13)

* this print line is tested against GSfile2
.PRINT AC FORMAT=PROBE FILE=bug_903_ac.cir.pline2.csd
+ V(2) 
+ V(NAME_IS_122_CHARACTERS_ITS_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_LONG) 
+ V(3) V(4) V(5) V(6) 
+ V(NAME_IS_121_CHARACTERS_ITS_LESS_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_REALLY_LONGG) 
+ V(7) V(8) V(13) V(9) V(11a) V(11) V(12) V(1A) V(1) 

* Use a simple high-pass RC circuit.  Break the "R" up into multiple pieces
* so that that multiple voltages can be easily printed out.
VS1  1  0  DC 0 AC 1
C1   1  1a 1u 
R1   1a  2  1
R2   2  3  1
R3   3  4  1
R4   4  5  1
R5   5  6  1
R6   6  7  1
R7   7  8  1
R8   8  9  1
R9   9  0 1 

VS2 11  0  DC 0 AC 1
C11 11  11a 1u 
R11 11a 12 1
R12 12  13 1
R13 13  
+name_is_122_characters_its_really_really_really_really_really_really_really_really_really_really_really_really_really_long
+R=1

R14 
+name_is_122_characters_its_really_really_really_really_really_really_really_really_really_really_really_really_really_long
+name_is_121_characters_its_less_really_really_really_really_really_really_really_really_really_really_really_really_longg 
+R=1

R15 
+name_is_121_characters_its_less_really_really_really_really_really_really_really_really_really_really_really_really_longg
+0 1

.END
