*Circuit with big mutual inductor, hoping to trip bug 37 (son)

VIN 1a 0 sin ( 0 1 1KHz)
*Primary winding
L1 1a 1b 1uH
R1 1b 0 1

* secondary windings
Lp1 2 3 1uh
Lp2 4 5 1.5uh
Lp3 6 7 2uh
Lp4 8 9 2.5uh
Lp5 10 11 3uh
Lp6 12 13 3.5uh
Lp7 14 15 4uh
Lp8 16 17 4.5uh
Lp9 18 19 5uh
Lp10 20 21 5.5uh

* loads for the secondaries
Rp1 2 0  1k
Rg1 3 0  .1u

Rp2 4 0  1k
Rg2 5 0  .1u

Rp3 6 0  1k
Rg3 7 0  .1u

Rp4 8 0  1k
Rg4 9 0  .1u

Rp5 10 0  1k
Rg5 11 0  .1u

Rp6 12 0  1k
Rg6 13 0  .1u

Rp7 14 0  1k
Rg7 15 0  .1u

Rp8 16 0  1k
Rg8 17 0  .1u

Rp9 18 0  1k
Rg9 19 0  .1u

Rp10 20 0  1k
Rg10 21 0  .1u

* Mutual coupling
K1 L1 Lp1 .8
K2 L1 Lp2 .8
K3 L1 Lp3 .8
K4 L1 Lp4 .8
K5 L1 Lp5 .8
K6 L1 Lp6 .8
K7 L1 Lp7 .8
K9 L1 Lp8 .8
K9 L1 Lp9 .8
K10 L1 Lp10 .8

Kp1p2 Lp1 Lp2 .5
Kp1p3 Lp1 Lp3 .25
Kp1p4 Lp1 Lp4 .125
Kp1p5 Lp1 Lp5 .0625
Kp1p6 Lp1 Lp6 .03125
Kp1p7 Lp1 Lp7 .015625
Kp1p8 Lp1 Lp8 .0087125
Kp1p9 Lp1 Lp9 .00390625
Kp1p10 Lp1 Lp10 .001953125

Kp2p3 Lp2 Lp3 .5
Kp2p4 Lp2 Lp4 .25
Kp2p5 Lp2 Lp5 .125
Kp2p6 Lp2 Lp6 .0625
Kp2p7 Lp2 Lp7 .03125   
Kp2p8 Lp2 Lp8 .015625  
Kp2p9 Lp2 Lp9 .0087125 
Kp2p10 Lp2 Lp10 .00390625 

Kp3p4 Lp3 Lp4 .5
Kp3p5 Lp3 Lp5 .25
Kp3p6 Lp3 Lp6 .125
Kp3p7 Lp3 Lp7 .0625 
Kp3p8 Lp3 Lp8  .03125   
Kp3p9 Lp3 Lp9  .015625  
Kp3p10 Lp3 Lp10 .0087125   

Kp4p5 Lp4 Lp5 .5
Kp4p6 Lp4 Lp6 .25
Kp4p7 Lp4 Lp7 .125
Kp4p8 Lp4 Lp8 .0625 
Kp4p9 Lp4 Lp9 .03125   
Kp4p10 Lp4 Lp10  .015625  

Kp5p6 Lp5 Lp6 .5
Kp5p7 Lp5 Lp7 .25
Kp5p8 Lp5 Lp8 .125
Kp5p9 Lp5 Lp9 .0625 
Kp5p10 Lp5 Lp10 .03125   

Kp6p7 Lp6 Lp7 .5
Kp6p8 Lp6 Lp8 .25
Kp6p9 Lp6 Lp9 .125
Kp6p10 Lp6 Lp10 .0625 

Kp7p8 Lp7 Lp8 .5
Kp7p9 Lp7 Lp9 .25
Kp7p10 Lp7 Lp10 .125

Kp8p9 Lp8 Lp9 .5
Kp8p10 Lp8 Lp10 .25

Kp9p10 Lp9 Lp10 .5

.print tran V(1a) V(2) V(4) V(6) V(8) V(10) V(12)
.tran 1u 10ms
.end

